US08008505B2
57.1 4-(1H-Tetrazol-5-yl)-phenylamine
To a stirred solution of 4-amino-benzonitrile (300 mg, 2.53 mmol; CAS Reg. No. 873-74-5) in dry DMF (6 ml) was added NH4Cl (547 mg, 10.2 mmol) and NaN3 (660 mg, 10.2 mmol) at room temperature. The reaction mixture was then heated at 120° C. for 12 h. After cooling, TLC shows formation of new spot, filtered the solid material by sintered funnel and washed the solid residue by EtOAc (4×5 ml). Combined organic layers were reduced under pressure at 60° C. and diluted the residue with EtOAc (25 mL). Organic layer was washed with H2O (15 ml), brine (12 ml) and dried over Na2SO4; which was then concentrated under reduced pressure to give the crude material (300 mg). Crude product was then purified by column chromatography [SiO2 (230-400 mesh), MeOH:DCM 5:95] to give the title compound (180 mg, 44.4%) as light yellow solid.

reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | NH4Cl | 10.2 mmol, 547 mg | [NH4+].[Cl-]
reactant | NaN3 | 10.2 mmol, 660 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-(1H-Tetrazol-5-yl)-phenylamine | 180 mg, 44.4% | N1N=NN=C1C1=CC=C(C=C1)N | C7H7N5
